US06376539B1
di-n-Butyl cis-cyclobutane-1,2-dicarboxylate
1 g (6.94 mmol) of cis-cyclobutane-1,2-dicarboxylic acid in 50 ml of n-butanol were heated under reflux with 0.3 g of conc. H2SO4 for 90 min. The mixture was then concentrated to about 5 ml and poured into dil. NaHCO3 solution, extracted with ethyl acetate, dried over sodium sulphate and concentrated. Purification was carried out chromatographically over silica gel (mobile phase: petroleum ether:ethyl acetate 100:2>100:5).

reactant | cis-cyclobutane-1,2-dicarboxylic acid | 6.94 mmol, 1 g | [C@@H]1([C@H](CC1)C(=O)O)C(=O)O | C6H8O4
reactant | H2SO4 | 0.3 g | OS(=O)(=O)O | H2O4S
reactant | n-butanol | 50 ml | C(CCC)O | C4H10O
product | di-n-Butyl cis-cyclobutane-1,2-dicarboxylate | [C@@H]1([C@H](CC1)C(=O)OCCCC)C(=O)OCCCC | C14H24O4
